US09371320B2
B) (3-(1-cyclopentyl-4-oxo-4,5-dihydro-1H-pyrazolo[4,3-c]pyridin-3-yl)phenyl)acetonitrile
To a solution of (3-(1-cyclopentyl-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)phenyl)acetonitrile (120 mg) in acetonitrile (10 mL) were added sodium iodide (108 mg) and chloro(trimethyl)silane (0.366 mL), and the mixture was stirred at 60° C. for 30 min. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane), and the obtained solid was washed with ethyl acetate to give the title compound (105 mg).

reactant | (3-(1-cyclopentyl-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)phenyl)acetonitrile | 120 mg | C1(CCCC1)N1N=C(C=2C(=NC=CC21)OC)C=2C=C(C=CC2)CC#N | C20H20N4O
reactant | sodium iodide | 108 mg | [I-].[Na+]
reactant | chloro(trimethyl)silane | 0.366 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | water | O | H2O
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | (3-(1-cyclopentyl-4-oxo-4,5-dihydro-1H-pyrazolo[4,3-c]pyridin-3-yl)phenyl)acetonitrile | 105 mg | C1(CCCC1)N1N=C(C=2C(NC=CC21)=O)C=2C=C(C=CC2)CC#N | C19H18N4O
